US07071201B2
Example 49: Synthesis of 1-{1-[2-(4-pyridyl)ethyl]piperidin-4-yl}indoline
1-(4-Piperidyl)indoline (0.1 g) was dissolved in ethanol (5 ml). After adding 4-vinylpyridine (0.16 ml), the resultant mixture was heated under reflux in a nitrogen atmosphere for 12 hr. Then the reaction solution was concentrated under reduced pressure and purified by silica gel column chromatography (toluene/acetone system) to give the title compound (0.064 g) as a colorless oil (yield: 42.5%).

reactant | 1-(4-Piperidyl)indoline | 0.1 g | N1CCC(CC1)N1CCC2=CC=CC=C12 | C13H18N2
reactant | 4-vinylpyridine | 0.16 ml | C(=C)C1=CC=NC=C1 | C7H7N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-{1-[2-(4-pyridyl)ethyl]piperidin-4-yl}indoline | 0.064 g, yield: 42.5% | N1=CC=C(C=C1)CCN1CCC(CC1)N1CCC2=CC=CC=C12 | C20H25N3
